US03971800
2.6 g. of 1-ethyl-4-hydrazino-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester (0.01 mol.) are dissolved in 10 ml. of acetone. One drop of acetic acid is added and the mixture is allowed to stand overnight. The excess acetone is distilled off in vacuo and the residue is recrystallized from petroleum ether to obtain 1-ethyl-6-methyl-4-[2-(1-methylethylidene)hydrazino]-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester in 95% yield, m.p. 68°-72°.

reactant | 1-ethyl-4-hydrazino-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester | 0.01 mol | C(C)OC(=O)C=1C2=C(C(=NC1C)NN)N=NN2CC | C11H16N6O2
reactant | acetone | CC(=O)C | C3H6O
catalyst | acetic acid | One drop | C(C)(=O)O | C2H4O2
product | 1-ethyl-6-methyl-4-[2-(1-methylethylidene)hydrazino]-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester | 95% yield | C(C)OC(=O)C=1C2=C(C(=NC1C)NN=C(C)C)N=NN2CC | C14H20N6O2
